US07241761B2
(b) 2-Isopropoxy-5-methanesulfonyl-benzoic acid
A mixture of 2.13 mmol 2-chloro-5-methanesulfonyl-benzoic acid, 0.64 mmol Cu(I)Br in 5 ml NEt3 and 25 ml isopropanol was heated to 120° C. for 16 h in a sealed tube. The volatiles were removed under vacuum, and the residue was taken up in 70 ml 1N HCl. Extraction with ethyl acetate drying of the combined organic fractions, and evaporation yielded a residue which was purified by reversed phase preparative HPLC eluting with an acetonitrile/water gradient. Evaporation of the product fractions yielded the title compound

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | 2.13 mmol | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | NEt3 | 5 ml | CCN(CC)CC | C6H15N
product | 2-Isopropoxy-5-methanesulfonyl-benzoic acid | C(C)(C)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C11H14O5S
